2173-08-05 05:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Endoscopy: found activley bleeding vessel around PEG site in the
   stomach.  Several ([**5-9**]) clamps applied but unable to stop the bleeding
   completely.  Surgical consult in the room to view and pt referred to
   general surgery for repair of the vessel.
   Surgical repair of arterial bleed with oversew of gastrostomy site and
   placement of new G-tube
   Transfused a total of 6 units of RBC, 1 unit of platelets
   hypertensive after surgery, improved with pain control
   tachypnic after surgery, persistently breathing over set ventilatory
   rate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2173-8-4**] 06:00 PM
   Piperacillin - [**2173-8-5**] 12:42 AM
   Infusions:
   Propofol - 55 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2173-8-4**] 05:15 PM
   Fentanyl - [**2173-8-4**] 05:15 PM
   Pantoprazole (Protonix) - [**2173-8-4**] 09:00 PM
   Morphine Sulfate - [**2173-8-5**] 03:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-8-5**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 105 (88 - 141) bpm
   BP: 117/59(81) {97/53(69) - 196/121(149)} mmHg
   RR: 22 (9 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
           Total In:
                                                                  4,520 mL
                                                                    675 mL
   PO:
           TF:
   IVF:
                                                                  2,416 mL
                                                                    294 mL
   Blood products:
                                                                    754 mL
                                                                    381 mL
   Total out:
                                                                  1,155 mL
                                                                    420 mL
   Urine:
                                                                    605 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,365 mL
                                                                    255 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.48/27/133/19/-1
   Ve: 9.5 L/min
   PaO2 / FiO2: 332
   PHYSICAL EXAM
   GENERAL: sedated, intubated; nonresponsive to verbal stimuli
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. Pinpoint pupils bilaterally.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: tachycardiac, regular rate, S1, S2, S4. No murmurs, rubs or
   [**Last Name (un) 1011**]
   LUNGS: CTAB.
   ABDOMEN: soft, hypoactive BS, surgical dressing in place; coffee ground
   discharge in G tube
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: post-radiation hyperpigmentation over lateral neck, large
   abdominal ecchymoses
   Labs / Radiology
   195 K/uL
   11.0 g/dL
   92 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.9 mEq/L
   35 mg/dL
   112 mEq/L
   141 mEq/L
   31.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2173-8-4**]  05:28 PM
                             [**2173-8-4**]  07:50 PM
                             [**2173-8-4**]  08:30 PM
                             [**2173-8-4**]  09:24 PM
                             [**2173-8-5**]  12:09 AM
                             [**2173-8-5**]  02:25 AM
                             [**2173-8-5**]  03:13 AM
   WBC
   7.4
   8.9
   Hct
   24.6
   27
   25
   23.5
   31.5
   Plt
   209
   195
   Cr
   0.7
   TropT
   0.09
   TCO2
   21
   24
   22
   21
   Glucose
   92
   154
   92
   Other labs: PT / PTT / INR:13.7/27.5/1.2, CK / CKMB /
   Troponin-T:47/6/0.09, Lactic Acid:0.8 mmol/L, Ca++:7.6 mg/dL, Mg++:1.4
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ASSESSMENT AND PLAN: Mrs. [**Known lastname 8531**] is a 73 year old female with a PMH
   head and neck CA admitted for HAP on vanco and pip/[**Hospital 8533**] transferred to
   the MICU for melena.
   .
   # Melena/anemia/BP secondary to gastric arterial bleed: s/p endoscopy
   with arterial vessel clip; s/p surgical repair and new gastrostomy
   placement.  S/p aggressive fluid resuscitation and s/p 6 units RBC.
   Baseline hct ~30.
   - Trend hct Q8H, transfuse for hct<21
   - Hold ASA, plavix, and enoxaparin
   - follow PT/ PTT/INR for potential coagulopathy in the setting of large
   transfusion in patient with malignancy
   - IV PPI Q12H
   - F/u GI recs
   - Monitor hemodynamics, UOP. Bolus and transfuse as necessary.
   #Respiratory distress:  Patient remained intubated following her
   surgical intervention.  Although patient is being treated for HAP, she
   does not appear to have significant intrapulmonary disease.  She has
   had tachypnea while on mechanical ventilation most likely due to
   postsurgical pain and discomfort related to the endotracheal tube
   - continue to wean sedation
   - SBT and extubation today if possible
   -continue current antimicrobial regime for HAP: day [**5-11**] vanco and
   pip/tazo.
   .
   # Onc: Per primary oncologist Dr. [**Last Name (STitle) 161**], patient will not have final
   radiation treatment today
   # Metabolic Acidosis: hyperchloremic nonunion gap acidosis secondary to
   aggressive fluid resuscitation with IVF
   .
   # CAD: Troponins elevated to 0.15 trending down to 0.12 earlier in
   admission with flat MB likely representing demand ischemia in setting
   of pneumonia. Troponin continue downward trend s/p GI bleed
   - Hold BB, ACE-I, ASA, and plavix pending stabilization of GI bleed
   - Continue statin
   .
   # COPD: continue albuterol prn
   .
   FEN: NPO, replete as necessary.  Do not use G-tube for >24hrs after
   procedure
   Contact: [**Name (NI) 209**] [**Name (NI) 8531**] (Son)  [**Telephone/Fax (1) 8537**]
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Midline - [**2173-8-4**] 03:50 PM
   Tunneled (Hickman) Line - [**2173-8-4**] 03:51 PM
   Multi Lumen - [**2173-8-4**] 08:40 PM
   Arterial Line - [**2173-8-4**] 08:40 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: Protonix drip
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-08-05 09:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued to exhibit GI bleed last PM.  Tachycardia, but no
   hypotension.   Received total 6 units PRBC, with Hct nadir= 19 to
   current Hct= 31.
   To OR last PM for oversewing of bleeding gastric vessel -- no
   complications, but remained intubated overnight.
   Sedation weaned, tolerating SBT this AM.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2173-8-4**] 06:00 PM
   Piperacillin - [**2173-8-5**] 08:15 AM
   Vancomycin - [**2173-8-5**] 09:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2173-8-4**] 05:15 PM
   Midazolam (Versed) - [**2173-8-4**] 05:15 PM
   Pantoprazole (Protonix) - [**2173-8-4**] 09:00 PM
   Morphine Sulfate - [**2173-8-5**] 03:34 AM
   Labetalol - [**2173-8-5**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-5**] Minimal
   Pain location: abd incision
   Flowsheet Data as of  [**2173-8-5**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 106 (88 - 141) bpm
   BP: 187/75(104) {124/36(65) - 187/129(139)} mmHg
   RR: 26 (9 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
           Total In:
                                                                  4,520 mL
                                                                  1,565 mL
   PO:
           TF:
   IVF:
                                                                  2,416 mL
                                                                  1,184 mL
   Blood products:
                                                                    754 mL
                                                                    381 mL
   Total out:
                                                                  1,155 mL
                                                                    630 mL
   Urine:
                                                                    605 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,365 mL
                                                                    935 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.48/27/133/19/-1
   Ve: 11.2 L/min
   PaO2 / FiO2: 332
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: left base, No(t) Absent : , No(t) Rhonchorous:
   )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Tender: , No(t) Obese, Left quadrant surgical incision;
   G-tube site
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   195 K/uL
   92 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.9 mEq/L
   35 mg/dL
   112 mEq/L
   141 mEq/L
   31.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2173-8-4**]  05:28 PM
                             [**2173-8-4**]  07:50 PM
                             [**2173-8-4**]  08:30 PM
                             [**2173-8-4**]  09:24 PM
                             [**2173-8-5**]  12:09 AM
                             [**2173-8-5**]  02:25 AM
                             [**2173-8-5**]  03:13 AM
   WBC
   7.4
   8.9
   Hct
   24.6
   27
   25
   23.5
   31.5
   Plt
   209
   195
   Cr
   0.7
   TropT
   0.09
   TCO2
   21
   24
   22
   21
   Glucose
   92
   154
   92
   Other labs: PT / PTT / INR:13.7/27.5/1.2, CK / CKMB /
   Troponin-T:47/6/0.09, Lactic Acid:0.8 mmol/L, Ca++:7.6 mg/dL, Mg++:1.4
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- remains intubated post-op.  Good progress with
   SBT 0 --> extubated this AM during rounds.
   GI BLEED -- Attributed to oozing gastric vessel, immediately adjacent
   to gastric tube.  Unclear whether partially thrombosed vein or artery.
   Transfused 6 units PRBC, and  and General surgery performed oversewing
   of bleeding site.  Continue trend Hct.  Hold ASA, plavix, lovenox
   -->eventually will need to resume.  Monitor VS and stool output.
   PNEUMONIA -- LLL infiltrate on CXR, not progressing.  Plan continue
   antimicrobials for complete 7 day course.
   ELEVATED CARDIAC ENZYEMS -- likely reflects demand ischemia (pneumonia,
   and profound anemia in context of GI bleed)
   ANEMIA -- blood loss, attributed to gastric vessel bleed.  Monitor
   serial Hct, maintain >27
   FLUIDS -- Euvolemic currently.  Maintain balacne.
   TACHYCARDIA -- attributed to hypovolemia, GI bleed.  Monitor as volume
   repleted.
   COPD -- No active issues.  Continue usual meds.
   LARYNGEAL CA -- advanced, s/p treatment.
   NUTRITIONAL SUPPORT -- NPO for now.  Resume TF once ileus resolved (now
   with new G-tube)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2173-8-4**] 03:50 PM
   Tunneled (Hickman) Line - [**2173-8-4**] 03:51 PM
   Multi Lumen - [**2173-8-4**] 08:40 PM
   Arterial Line - [**2173-8-4**] 08:40 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2173-08-06 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2173-8-5**] 03:00 PM
 ARTERIAL LINE - STOP [**2173-8-5**] 07:25 PM
   - continues to have alterations in mental status, difficulty expresing
   self
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2173-8-4**] 06:00 PM
   Vancomycin - [**2173-8-5**] 07:12 PM
   Piperacillin - [**2173-8-5**] 11:02 PM
   Infusions:
   Other ICU medications:
   Labetalol - [**2173-8-5**] 02:30 PM
   Pantoprazole (Protonix) - [**2173-8-5**] 07:13 PM
   Morphine Sulfate - [**2173-8-5**] 11:03 PM
   Metoprolol - [**2173-8-6**] 01:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-8-6**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 101 (87 - 114) bpm
   BP: 152/86(102) {142/66(86) - 187/86(104)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,121 mL
                                                                    120 mL
   PO:
             TF:
   IVF:
                                                                  1,741 mL
                                                                    120 mL
   Blood products:
                                                                    381 mL
   Total out:
                                                                  2,160 mL
                                                                    600 mL
   Urine:
                                                                  1,860 mL
                                                                    400 mL
   NG:
                                                                    300 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    -39 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///22/
   Ve: 11.2 L/min
   Physical Examination
   GENERAL: alert, lying in bed, pleasant
   HEENT: MMM, PERRL, No conjunctival pallor. No scleral icterus.  Neck
   Supple, No LAD, No thyromegaly
   CARDIAC: tachycardiac, regular rate, S1, S2, S4. No murmurs, rubs or
   [**Last Name (un) 1011**]
   LUNGS: CTAB.
   ABDOMEN: soft, + BS, surgical dressing in place c/d/i, non-tender to
   palpation
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: post-radiation hyperpigmentation over lateral neck, large
   abdominal ecchymoses
   Labs / Radiology
   191 K/uL
   9.9 g/dL
   88 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.3 mEq/L
   19 mg/dL
   109 mEq/L
   139 mEq/L
   29.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2173-8-4**]  05:28 PM
                             [**2173-8-4**]  07:50 PM
                             [**2173-8-4**]  08:30 PM
                             [**2173-8-4**]  09:24 PM
                             [**2173-8-5**]  12:09 AM
                             [**2173-8-5**]  02:25 AM
                             [**2173-8-5**]  03:13 AM
                             [**2173-8-5**]  02:17 PM
                             [**2173-8-5**]  09:22 PM
                             [**2173-8-6**]  04:04 AM
   WBC
   7.4
   8.9
   9.4
   Hct
   24.6
   27
   25
   23.5
   31.5
   30.0
   27.8
   29.3
   Plt
   [**Telephone/Fax (3) 8557**]91
   Cr
   0.7
   0.7
   TropT
   0.09
   TCO2
   21
   24
   22
   21
   Glucose
   92
   154
   92
   88
   Other labs: PT / PTT / INR:13.4/26.5/1.1, CK / CKMB /
   Troponin-T:47/6/0.09, Lactic Acid:0.8 mmol/L, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ASSESSMENT AND PLAN: Mrs. [**Known lastname 8531**] is a 73 year old female with a PMH
   head and neck CA admitted for HAP on vanco and pip/[**Hospital 8533**] transferred to
   the MICU for melena.
   .
   # Melena/anemia/BP secondary to gastric arterial bleed: s/p endoscopy
   with arterial vessel clip; s/p surgical repair and new gastrostomy
   placement.  S/p aggressive fluid resuscitation and s/p 6 units RBC.
   Baseline hct ~30. stable overnight
   - ok to check H/H qday now that Hct stable
   - Hold ASA, [**Hospital **], and enoxaparin
   - follow PT/ PTT/INR for potential coagulopathy in the setting of large
   transfusion in patient with malignancy
   - change PPI to lansoprazole per PEG
   - Monitor hemodynamics, UOP. Bolus and transfuse as necessary.
   #Respiratory distress:  Resolved. Patient remained intubated following
   her surgical intervention.  Being treated for HAP, no oxygen
   requirement this morning.  No respiratory distress.
   - continue monitor O2 sat, O2 by NC if necessary
   - Continue HAP regimen
   # Altered Mental Status: Patient with possible expressive aphasia today
   as has trouble responding to questions, but also has difficulty
   answering questions arbout age, etc.  Due to history of being on ASA
   nad [**Last Name (LF) **], [**First Name3 (LF) **] consider TIA, but suspicion is low. Could also be
   delerium.
   - Ct Head without contrast today before transfer
   - thourough neurologic exam
   - will speak with OMED team about mental status on admission
   # Onc: Per primary oncologist Dr. [**Last Name (STitle) 161**], patient will not have final
   radiation treatment today
   - Transfer back to OMED today for completion of treatment.
   # Metabolic Acidosis: resolved
   # CAD: Troponins elevated to 0.15 trending down to 0.12 earlier in
   admission with flat MB likely representing demand ischemia in setting
   of pneumonia. Troponin continue downward trend s/p GI bleed
   - Hold BB, ACE-I, ASA, and [**Last Name (STitle) **] pending stabilization of GI bleed
   - Continue statin
   .
   # COPD: continue albuterol prn
   .
   FEN: NPO, replete as necessary.  Do not use G-tube for >24hrs after
   procedure
   Contact: [**Name (NI) 209**] [**Name (NI) 8531**] (Son)  [**Telephone/Fax (1) 8537**]
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Midline - [**2173-8-4**] 03:50 PM
   Tunneled (Hickman) Line - [**2173-8-4**] 03:51 PM
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer:  Protonix drip
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To floor after CT Head

2173-08-06 08:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2173-8-5**] 03:00 PM
 ARTERIAL LINE - STOP [**2173-8-5**] 07:25 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2173-8-4**] 06:00 PM
   Vancomycin - [**2173-8-6**] 07:50 AM
   Piperacillin - [**2173-8-6**] 08:12 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2173-8-5**] 02:30 PM
   Morphine Sulfate - [**2173-8-5**] 11:03 PM
   Metoprolol - [**2173-8-6**] 07:50 AM
   Pantoprazole (Protonix) - [**2173-8-6**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-8-6**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.3
   HR: 89 (87 - 114) bpm
   BP: 157/80(101) {142/66(86) - 187/87(108)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,121 mL
                                                                    442 mL
   PO:
             TF:
   IVF:
                                                                  1,741 mL
                                                                    442 mL
   Blood products:
                                                                    381 mL
   Total out:
                                                                  2,160 mL
                                                                    835 mL
   Urine:
                                                                  1,860 mL
                                                                    635 mL
   NG:
                                                                    300 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    -39 mL
                                                                   -393 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Vt (Spontaneous): 450 (450 - 450) mL
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   191 K/uL
   88 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.3 mEq/L
   19 mg/dL
   109 mEq/L
   139 mEq/L
   29.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2173-8-4**]  05:28 PM
                             [**2173-8-4**]  07:50 PM
                             [**2173-8-4**]  08:30 PM
                             [**2173-8-4**]  09:24 PM
                             [**2173-8-5**]  12:09 AM
                             [**2173-8-5**]  02:25 AM
                             [**2173-8-5**]  03:13 AM
                             [**2173-8-5**]  02:17 PM
                             [**2173-8-5**]  09:22 PM
                             [**2173-8-6**]  04:04 AM
   WBC
   7.4
   8.9
   9.4
   Hct
   24.6
   27
   25
   23.5
   31.5
   30.0
   27.8
   29.3
   Plt
   [**Telephone/Fax (3) 8557**]91
   Cr
   0.7
   0.7
   TropT
   0.09
   TCO2
   21
   24
   22
   21
   Glucose
   92
   154
   92
   88
   Other labs: PT / PTT / INR:13.4/26.5/1.1, CK / CKMB /
   Troponin-T:47/6/0.09, Lactic Acid:0.8 mmol/L, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- remains intubated post-op.  Good progress with
   SBT 0 --> extubated this AM during rounds.
   GI BLEED -- Attributed to oozing gastric vessel, immediately adjacent
   to gastric tube.  Unclear whether partially thrombosed vein or artery.
   Transfused 6 units PRBC, and  and General surgery performed oversewing
   of bleeding site.  Continue trend Hct.  Hold ASA, plavix, lovenox
   -->eventually will need to resume.  Monitor VS and stool output.
   PNEUMONIA -- LLL infiltrate on CXR, not progressing.  Plan continue
   antimicrobials for complete 7 day course.
   ELEVATED CARDIAC ENZYEMS -- likely reflects demand ischemia (pneumonia,
   and profound anemia in context of GI bleed)
   ANEMIA -- blood loss, attributed to gastric vessel bleed.  Monitor
   serial Hct, maintain >27
   FLUIDS -- Euvolemic currently.  Maintain balacne.
   TACHYCARDIA -- attributed to hypovolemia, GI bleed.  Monitor as volume
   repleted.
   COPD -- No active issues.  Continue usual meds.
   LARYNGEAL CA -- advanced, s/p treatment.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2173-8-4**] 03:50 PM
   Tunneled (Hickman) Line - [**2173-8-4**] 03:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: